US08729068B2
A mixture of 347 mg of 3-{[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoic acid, 0.090 mL of oxalyl chloride, 3.0 mL of dichloromethane, and one drop of DMF was stirred at room temperature for 2 hours, and then the reaction mixture was concentrated under reduced pressure. A mixture of the obtained crude product and 3.0 mL of dichloromethane was added to a mixture of 0.071 mL of pyridine, 300 mg of methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, and 2.5 mL of dichloromethane, followed by stirring at room temperature overnight. The reaction mixture was purified by silica gel column chromatography (hexane-chloroform) to obtain 505 mg of methyl 4-({[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}amino)benzoate as a yellow foamed solid. ESI+: 752

reactant | 3-{[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoic acid | 347 mg | COC(=O)C1=CC=C(C=C1)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C15H13NO6S
reactant | oxalyl chloride | 0.090 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 300 mg | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)CCCC2 | C25H26N2O3S
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.071 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | methyl 4-({[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}amino)benzoate | 505 mg | COC(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(C=CC2)S(=O)(=O)NC2=CC=C(C(=O)OC)C=C2 | C40H37N3O8S2
